US04673686
N-[1-(cyclohexenyl)-methyl-2-pyrrolidylmethyl]-2,3-dimethoxy-5-sulphamoyl-benzamide
13 g of 2,3-dimethoxy-5-sulphamoyl-benzoic acid (0.05 mole), 150 ml of acetone, 35 ml of water and 5 g of triethylamine (0.05 mole) are placed in a 500 ml flask fitted with an agitator, a thermometer, a condenser and a droping funnel. The mixture is cooled to between 0° to +5° C. and 5.5 g of ethyl chloroformate (0.05 mole) is poured in drop by drop. The reaction medium is agitated until the precipitate is completely dissolved, then re-cooled to 0° C. and 9.7 g of 1-(1-cyclohexenyl)-methyl-2-aminomethyl-pyrrolidine (0.05 mole) is poured in drop by drop.

reactant | 2,3-dimethoxy-5-sulphamoyl-benzoic acid | 0.05 mole, 13 g | COC1=C(C(=O)O)C=C(C=C1OC)S(N)(=O)=O | C9H11NO6S
reactant | triethylamine | 0.05 mole, 5 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.05 mole, 5.5 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-(1-cyclohexenyl)-methyl-2-aminomethyl-pyrrolidine | 0.05 mole, 9.7 g | C1(=CCCCC1)N1C(CCC1)(CN)C | C12H22N2
solvent | water | 35 ml | O | H2O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | N-[1-(cyclohexenyl)-methyl-2-pyrrolidylmethyl]-2,3-dimethoxy-5-sulphamoyl-benzamide | C1(=CCCCC1)N1C(CCC1)C(NC(C1=C(C(=CC(=C1)S(N)(=O)=O)OC)OC)=O)C | C21H31N3O5S
